US04101667
To the mixture of 1ml of water and 600mg of potassium hydroxide in 9ml of ethanol was added 200mg of 9-cyano-2-methoxy-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin and the resulting mixture was heated under reflux overnight. Water was added to the mixture, which was washed with benzene. Aqueous layer was acidified with hydrochloric acid, extracted with chloroform, washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated therefrom and there was obtained 130mg of 9-carboxy-2-methoxy-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin having a melting point of 157°-160° C.

reactant | water | 1ml | O | H2O
reactant | potassium hydroxide | 600mg | [OH-].[K+]
reactant | 9-cyano-2-methoxy-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin | 200mg | C(#N)C1=CC=CC2=C1CC(C1=C(S2)C=CC(=C1)OC)=O | C16H11NO2S
solvent | ethanol | 9ml | C(C)O | C2H6O
product | 9-carboxy-2-methoxy-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin | 130mg | C(=O)(O)C1=CC=CC2=C1CC(C1=C(S2)C=CC(=C1)OC)=O | C16H12O4S
